US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(cyclobutylmethyl)-1H-pyrazole-4-carboxamide
Following the same procedure in example 53, step A, using (cyclobutylmethyl)amine (12 mg, 0.13 mmol), HATU (37 mg, 0.09 mmol), DIPEA (0.02 mL, 0.10 mmol) and 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (40 mg, 0.09 mmol) in DMF (5 mL). The crude product was purified by MPLC on silica gel using EtOAc/DCM (1:1) to provide the title compound as a white solid. The product was converted to its TFA salt. Yield: 27 mg (48%); 1H NMR (400 MHz, CD3OD) δ 1.43-1.51 (m, 3 H), 1.55 (dd, J=12.30, 3.91 Hz, 1 H), 1.61 (s, 9 H), 1.66-1.78 (m, 2 H), 1.81-1.93 (m, 2 H), 1.99-2.10 (m, 2 H), 2.26-2.37 (m, 1 H), 2.48-2.59 (m, 1 H), 3.26-3.36 (m, 4 H), 3.90 (dd, J=11.13, 3.71 Hz, 2 H), 4.45 (d, J=7.42 Hz, 2 H), 7.94-8.04 (m, 2 H), 8.05 (d, J=0.78 Hz, 1 H), 8.36 (d, J=1.37 Hz, 1 H), 8.76 (s, 1 H); MS (ESI) (M+H)+=513.7; Anal. Calcd for C26H35N5O4S+1.8 TFA+2.4H2O: C, 46.65; H, 5.50; N, 9.19. Found: C, 46.74; H, 5.61; N, 8.97.

reactant | (cyclobutylmethyl)amine | 0.13 mmol, 12 mg | C1(CCC1)CN | C5H11N
reactant | HATU | 0.09 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.02 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.09 mmol, 40 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C21H26N4O5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(cyclobutylmethyl)-1H-pyrazole-4-carboxamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NCC2CCC2 | C26H35N5O4S
